US08193349B2
To a mixture of (4-benzyloxymethyl-cyclohexyl)-methanol (1.40 g, 6 mmol) in dichloromethane 28 mL is added Dess-Martin periodinate (2.53 g, 6 mmol) at 0° C., and the mixture is stirred for 0.5 hour while warming to room temperature. After addition of saturated aqueous NaHCO3, the mixture is extracted with EtOAc. The combined organic layer after dried over MgSO4 is concentrated to obtain 4-benzyloxymethyl-cyclohexanecarbaldehyde as clear oil (1.07 g, 79%) after purification.

reactant | (4-benzyloxymethyl-cyclohexyl)-methanol | 6 mmol, 1.40 g | C(C1=CC=CC=C1)OCC1CCC(CC1)CO | C15H22O2
reactant | Dess-Martin | 6 mmol, 2.53 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
product | 4-benzyloxymethyl-cyclohexanecarbaldehyde | 1.07 g, 79% | C(C1=CC=CC=C1)OCC1CCC(CC1)C=O | C15H20O2
